US04242346
A suspension of 1.2 g. (30 mmol) of magnesium oxide in 100 ml. of methylene chloride containing 3.0 g. (15 mmol) of 7,8-dichlorotetrahydroisoquinoline free base was stirred under argon at 0° while a solution of 1.16 g. (7.5 mmol) of succinyl chloride in 25 ml. of methylene chloride was added dropwise. The mixture was stirred at room temperature overnight. It was filtered through celite and the filtrate washed with 3 N hydrochloric acid and 10% sodium hydroxide, dried and evaporated to give 1.8 g. of white solid. A suspension of 1 g. of this amide in 25 ml. of dry tetrahydrofuran was stirred at room temperature under argon while 1.0 g. of lithium aluminum hydride was added in portions over thirty minutes. It was stirred at room temperature for 5 hours and treated with 10 ml. of ethyl acetate followed by 25 ml. of 10% sodium hydroxide. The mixture was concentrated, diluted with water and extracted wsith three 50-ml portions of methylene chloride. The combined extracts were dried and treated with ethereal hydrogen chloride. The resulting precipitate was removed by filtration, washed with ether and dried to give 2,2'-butylene-bis(7,8-dichloro-1,2,3,4-tetrahydroisoquinoline)dihydrochloride having a melting point of 269°-275° C.

reactant | magnesium oxide | 30 mmol | [O-2].[Mg+2]
reactant | 7,8-dichlorotetrahydroisoquinoline | 15 mmol | ClC1=CC=C2CCNCC2=C1Cl | C9H9Cl2N
reactant | succinyl chloride | 7.5 mmol | C(CCC(=O)Cl)(=O)Cl | C4H4Cl2O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.0 g | C(Cl)Cl | CH2Cl2
product | 2,2'-butylene-bis(7,8-dichloro-1,2,3,4-tetrahydroisoquinoline)dihydrochloride | Cl.Cl.C(CCCN1CC2=C(C(=CC=C2CC1)Cl)Cl)N1CC2=C(C(=CC=C2CC1)Cl)Cl | InChI=1S/C22H24Cl4N2.2ClH/c23-19-5-3-15-7-11-27(13-17(15)21(19)25)9-1-2-10-28-12-8-16-4-6-20(24)22(26)18(16)14-28;;/h3-6H,1-2,7-14H2;2*1H
